US07338973B2
8-(tert-butyl-dimethyl-silanyloxy)-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene
6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol (820 mg, 3.24 mmoL) in DMF (10 mL) was treated with imidazole (331 mg, 4.862 mmoL) followed by TBSCl (733 mg, 4.862 mmoL) at room temperature. The reaction was stirred for 2 hours. The reaction mixture was then partitioned between CH2Cl2 and water. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown oil. The crude material (the oil) was then purified by column chromatography (silica gel, hexanes:EtOAc 4:1 as eluent) to yield the title compound as a brown solid.

reactant | 6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol | 820 mg | C1=CC=CC2=C1C=1NC3=CC=C(C=C3C1CS2)O | C15H11NOS
reactant | imidazole | 331 mg | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 733 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 8-(tert-butyl-dimethyl-silanyloxy)-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene | C(C)(C)(C)[Si](OC=1C=C2C=3CSC4=C(C3NC2=CC1)C=CC=C4)(C)C | C21H25NOSSi
